US06943184B2
Step 1: Ethyl 2-[(benzyloxy)methyl]cyclopropanecarboxylate
31.2 g of ethyl diazoacetate are added to a solution of 0.3 mol of allyl benzyl ether in 150 ml of ether with the aid of a push-syringe. After stirring for 16 hours, 31.2 g of ethyl diazoacetate are added again. After 24 hours the mixture is filtered. The organic phase is washed with saturated NaHCO3 solution and then treated in customary manner. Chromatography over silica gel (dichloromethane) allows the expected product to be obtained.

reactant | ethyl diazoacetate | 31.2 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | allyl benzyl ether | 0.3 mol | C(C1=CC=CC=C1)OCC=C | C10H12O
reactant | ethyl diazoacetate | 31.2 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | ether | 150 ml | CCOCC | C4H10O
product | Ethyl 2-[(benzyloxy)methyl]cyclopropanecarboxylate | C(C1=CC=CC=C1)OCC1C(C1)C(=O)OCC | C14H18O3
